US09034900B2
Step 3: N-[3-[2-methyl-6-(6-methylpyridin-3-yl)-1-oxoisoquinolin-4-yl]phenyl]ethanesulfonamide
A mixture of 4-bromo-2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one (135 mg, 0.41 mmol), [3-(ethylsulfonylamino)phenyl]boronic acid (141 mg, 0.62 mmol), Pd(dppf)Cl2 (35 mg, 0.05 mmol) and aqueous 1M K3PO4 (1.03 mL) in dioxane (6 mL) was microwaved at 100° C. for 1 h. Purification by silica gel chromatography (PE:EA=3:1 to 1:2) followed by preparative HPLC gave the title compound (25 mg, 14.1%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 8.74 (d, J=2.0 Hz, 1H), 8.41 (d, J=8.4 Hz, 1H), 7.96 (d, J=8.0 Hz, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.75 (s, 1H), 7.58 (s, 1H), 7.47 (t, J=8.0 Hz, 1H), 7.39 (s, 1H), 7.35 (d, J=8.4 Hz, 1H), 7.30 (d, J=8.4 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 3.59 (s, 3H), 3.59 (s, 3H), 3.15 (q, J=7.2 Hz, 2H), 1.19 (t, J=7.2 Hz, 3H). LCMS: 434.1 (M+H)+.

reactant | 4-bromo-2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one | 0.41 mmol, 135 mg | BrC1=CN(C(C2=CC=C(C=C12)C=1C=NC(=CC1)C)=O)C | C16H13BrN2O
reactant | [3-(ethylsulfonylamino)phenyl]boronic acid | 0.62 mmol, 141 mg | C(C)S(=O)(=O)NC=1C=C(C=CC1)B(O)O | C8H12BNO4S
reactant | K3PO4 | 1M, 1.03 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-[2-methyl-6-(6-methylpyridin-3-yl)-1-oxoisoquinolin-4-yl]phenyl]ethanesulfonamide | 25 mg, 14.1% | CN1C(C2=CC=C(C=C2C(=C1)C=1C=C(C=CC1)NS(=O)(=O)CC)C=1C=NC(=CC1)C)=O | C24H23N3O3S
